US07135480B2
3-Cyano-1-(4-imidazol-1-yl-benzoyl)-8-methyl-pyrrolo[1,2-a]quinoline
The title compound was prepared as described for Example 21, using 3-cyano-1-(4-fluoro-benzoyl)-8-methyl-pyrrolo[1,2-a]quinoline (54 mg, 0.164 mmol) and imidazole, and yielded 50.1 mg (81%). 1H NMR (CDCl3): 8.20 (dt, J=8.7, 2.1 Hz, 2H), 8.04 (s, broad, 1H), 7.89 (m, 1H), 7.74 (m, 2H), 7.62 (m, 3H), 7.44 (m, 2H), 7.43 (s, broad, 1H), 7.39 (dd, J=7.8, 0.6 Hz, 1H), 7.30 (s, broad, 1H), 2.54 (s, 3H).

reactant | 3-cyano-1-(4-fluoro-benzoyl)-8-methyl-pyrrolo[1,2-a]quinoline | 0.164 mmol, 54 mg | C(#N)C=1C=C(N2C1C=CC1=CC=C(C=C21)C)C(C2=CC=C(C=C2)F)=O | C21H13FN2O
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 3-Cyano-1-(4-imidazol-1-yl-benzoyl)-8-methyl-pyrrolo[1,2-a]quinoline | C(#N)C=1C=C(N2C1C=CC1=CC=C(C=C21)C)C(C2=CC=C(C=C2)N2C=NC=C2)=O | C24H16N4O
